US08207347B2
2o 5-Fluoro-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide
A suspension of 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide (9.91 mg, 0.0245 mmol and selectfluor (10.0 mg, 0.0282 mmol) in acetonitrile (0.1 mL) was sonicated for 3 hrs at 40° C. then allowed to stand for 3 days. It was quenched with water (3 ml) and extracted with ethyl acetate (3×1 mL). The combined organic solution was transferred to a preparative TLC plate (SiO2, 0.25 mm×20 cm×20 cm) and eluted with ethyl acetate to give the crude title product (4 mg, 19% yield). LC-MS (m/z) 423.2 (MH+); tR=1.44.

reactant | 2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C=C1C)=O)C1=CC=CC=C1)C | C25H25FN2O2
reactant | selectfluor | 0.0282 mmol, 10.0 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | acetonitrile | 0.1 mL | C(C)#N | C2H3N
product | 5-Fluoro-2,4-dimethyl-6-oxo-1-phenyl-1,6-dihydro-pyridine-3-carboxylic acid [(S)-cyclobutyl-(3-fluoro-phenyl)-methyl]-amide | 4 mg, 19% yield | C1(CCC1)[C@@H](C1=CC(=CC=C1)F)NC(=O)C1=C(N(C(C(=C1C)F)=O)C1=CC=CC=C1)C | C25H24F2N2O2
